US06828460B2
[4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]methyl Propionate
4-Dimethylaminopyridine (catalytic amount), triethylamine (68 μl) and propionyl chloride (42 μl) were added to a stirred solution of [4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl) cyclohexyl]methanol in anhydrous dichloromethane (3 ml) at room temperature under argon. After 16 hr, the reaction mixture was partitioned between water (10 ml) and ethyl acetate (20 ml). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×20 ml). The combined organic extracts were dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, ethyl acetate/petrol, 1:19 v/v) to give the title compound as a yellow oil and a mixture of diastereoisomers (114 mg, 92%); δH(CDCl3) −0.04 (6H, s), 0.02 (6H, s), 0.96 (9H, s), 1.00 (9H, s), 1.08-1.18 (3H, m), 1.20-2.10 (9H, m), 2.24-2.40 (2H, m), 2.76-2.92 (1H, m), 3.94 (0.6H, d), 4.18 (0.4H, d), 6.26 (1H, m), 6.40 (1H, dd), 6.94-6.98 (1H, m).

reactant | triethylamine | 68 μl | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 42 μl | C(CC)(=O)Cl | C3H5ClO
reactant | [4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl) cyclohexyl]methanol | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)C1CCC(CC1)CO | C25H46O3Si2
catalyst | 4-Dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | [4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]methyl Propionate | C(CC)(=O)OCC1CCC(CC1)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C28H50O4Si2
